US07601714B2
(2-Methanesulfonyl-benzyl)-carbamic acid tert-butyl ester (1.55 g, 5.43 mmol) was dissolved in warm dioxane (50 mL) and cooled to room temperature. HCl solution (4M solution in dioxane, 20 ml, 80 mmol) was added. After 20 h, a white precipitate had formed. The reaction was diluted with CHCl3 (50 mL) and filtered. The white solid was washed with CHCl3 and dried in-vacuo to yield 1.075g of 2-methanesulfonyl-benzylamine hydrochloride as an off white solid, m/z 186.6 (M+1)+.

reactant | (2-Methanesulfonyl-benzyl)-carbamic acid tert-butyl ester | 5.43 mmol, 1.55 g | C(C)(C)(C)OC(NCC1=C(C=CC=C1)S(=O)(=O)C)=O | C13H19NO4S
reactant | HCl | 80 mmol, 4M, 20 ml | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-methanesulfonyl-benzylamine hydrochloride | 1.075g | Cl.CS(=O)(=O)C1=C(CN)C=CC=C1 | InChI=1S/C8H11NO2S.ClH/c1-12(10,11)8-5-3-2-4-7(8)6-9;/h2-5H,6,9H2,1H3;1H
